US07189738B2
tert-Butyl 4-(2-{[(4-amino-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetyl]-amino}ethyl)-1H-imidazole-1-carboxylate
490 mg (1.56 mmol) of 2-(4-amino-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-N-[2-(1H-imidazol-4-yl)ethyl]acetamide are dissolved in 20 ml of DMF, and 0.65 ml (4.69 mmol) of triethylamine, 19 mg (0.16 mmol) of 4-DMAP and 375.5 mg (1.72 mmol) of di-tert-butyl dicarbonate are added. The reaction mixture is stirred at RT overnight, diluted with ethyl acetate and washed with saturated aqueous NaHCO3 solution. The organic phase is dried over MgSO4, filtered and concentrated. This gives 642 mg (99% of theory) of the product.

reactant | 2-(4-amino-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-N-[2-(1H-imidazol-4-yl)ethyl]acetamide | 1.56 mmol, 490 mg | NC1=C2C(N(C(C2=CC=C1)=O)CC(=O)NCCC=1N=CNC1)=O | C15H15N5O3
reactant | triethylamine | 4.69 mmol, 0.65 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.72 mmol, 375.5 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | 4-DMAP | 0.16 mmol, 19 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(2-{[(4-amino-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetyl]-amino}ethyl)-1H-imidazole-1-carboxylate | NC1=C2C(N(C(C2=CC=C1)=O)CC(=O)NCCC=1N=CN(C1)C(=O)OC(C)(C)C)=O | C20H23N5O5
